* source NET_MUX_2T
V_V1         N15937 0  
+PULSE 1.8V 0 0 1n 1n 3u 6u
V_V2         N15917 0  
+PULSE 1.8V 0V 0 1n 1n 1u 2u
M_M1         OUT N15917 N15941 0 Mbreakn  
+ L=.18u  
+ W=.72u         
M_M3         N15937 N15917 OUT N15963 Mbreakp  
+ L=.18u  
+ W=.72u         
V_V4         N15963 0 1.8Vdc
V_V3         N15941 0  
+PULSE 1.8V 0V 0 1n 1n 2u 4u
C_C1         0 OUT  20p  TC=0,0